US07645784B2
C. 2-{[2-Amino-6-(propylsulfonyl)phenyl]amino}ethanol
The compound was synthesized in 52% yield according to the procedure described for the synthesis of (7-dimethylsulfamoyl-benzimidazol-1-yl)-acetic acid, part C, starting from 2-{[2-nitro-6-(propylsulfonyl)phenyl]amino}ethanol. MS (ESI) m/z 259 [M+H]. 1H NMR (400 MHz, CDCl3/CD3OD) δ ppm 1.00 (t, J=7.3 Hz, 3H), 1.82-1.72 (m, 2H), 3.15-3.11 (m, 2H), 3.29-3.27 (m, 2H), 3.80-3.77 (m, 2H), 6.92-6.90 (m, 1H), 6.96 (t, J=7.8 Hz, 1H), 7.23 (dd, J=7.7, 1.6 Hz, 1H)

reactant | (7-dimethylsulfamoyl-benzimidazol-1-yl)-acetic acid | CN(S(=O)(=O)C1=CC=CC2=C1N(C=N2)CC(=O)O)C | C11H13N3O4S
reactant | 2-{[2-nitro-6-(propylsulfonyl)phenyl]amino}ethanol | [N+](=O)([O-])C1=C(C(=CC=C1)S(=O)(=O)CCC)NCCO | C11H16N2O5S
product | 2-{[2-Amino-6-(propylsulfonyl)phenyl]amino}ethanol | 52% yield | NC1=C(C(=CC=C1)S(=O)(=O)CCC)NCCO | C11H18N2O3S
